US07919519B2
5-Benzyl-2-methoxypyridine (2.6 g, 13 mmol) in 15 mL AcOH was added 15 mL 48% HBr. The mixture was heated to 140° C. for 3 h, cooled and poured onto ice. The mixture was basified to pH 6-7 and the resulting solid was collected by filtration, rinsed with water, and dried in vacuo to give 5-benzylpyridin-2-ol as an off-white solid. MS (ESI) m/z: Calculated: 185.1; Observed: 186.0 (M++1).

reactant | 5-Benzyl-2-methoxypyridine | 13 mmol, 2.6 g | C(C1=CC=CC=C1)C=1C=CC(=NC1)OC | C13H13NO
reactant | HBr | 15 mL | Br | BrH
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
product | 5-benzylpyridin-2-ol | C(C1=CC=CC=C1)C=1C=CC(=NC1)O | C12H11NO
